* Replace content surrounded by {}, including '{}' signs, with your circuit file content. Do not modify or delete anything else including comments
Title: model / LT1175 / Pre Rad / T= 300.15K = 27C

*Input Voltage Source
*********************
V2 4 0 DC 0V
*End Input Voltage Source

*Circuit Core
*************
*Subcircuit
*X1 VCC VEE VREF
X1 0 4 5 BG_sc

*X4 V+ V- VCC VEE VO
X4 6 5 0 4 7 OPAMP_sc

*Resistance: R<name> <+ node> <- node> [model name] <value>
r1 0 6 350k
r2 6 1 100k
rLIM 3 4 0.001

*BJT: Q<name> <collector> <base> <emitter> [substrate] <model name> [area value]
Q1 1 2 3 QNMOD 1000
Q2 0 7 2 QNMOD 10
*End Circuit Core

*Input
******
.dc V2 0 -20 -0.1
*End Input

*Output
*******
+ V(4)
+ V(1)
+ V(5)
*End Output

*Subcircuit
************
*Schematic name: BG_sc
**********************
.subckt BG_sc VCC VEE VREF
*Resistance: R<name> <+ node> <- node> [model name] <value>
r1 VCC 1 10k
r2 1 8 2.93e6
r3 8 9 109k
r4 4 VEE 600
r5 6 VEE 600

*BJT: Q<name> <collector> <base> <emitter> [substrate] <model name> [area value]
Q1 2 2 VCC QLPMOD 1
Q2 3 2 1 QLPMOD 1
Q3 12 5 9 QLPMOD 1
Q4 11 5 8 QLPMOD 0.1
Q5 12 12 7 QNMOD 1
Q6 11 12 7 QNMOD 1
Q7 VCC 5 7 QNMOD 1
Q8 3 3 4 QNMOD 1
Q9 7 3 6 QNMOD 1

*Voltage Controlled Voltage Source: E<name> <+ node> <-node> <+ controlling node> <- controlling node> <gain>
E1 VCC VREF VCC 5 1

*Independent Current Source: I<name> <+ node> <-node> [[DC] <value>]
I1 2 0 DC 3.23uA

*end of the BG_sc subcircuit
.ends BG_sc


*Schematic name: OPAMP_sc
*************************
.subckt OPAMP_sc V10 V11 VCC VEE VO
*Resistance: R<name> <+ node> <- node> [model name] <value>
r1 7 VEE 4.7k
r2 3 VEE 4.7k
r3 VO VEE 60k
r4 11 VEE 60k

*Capacitance: C<name> <+ node> <- node> [model name] <value> + [IC=<initial value>]
C1 1 9 0.0056p

*BJT: Q<name> <collector> <base> <emitter> [substrate] <model name> [area value]
Q1 1 11 VEE QNMOD 10
Q2 VCC 1 VO QNMOD 1
Q3 VCC 9 11 QNMOD 1
Q4 9 4 7 QNMOD 1
Q5 4 4 3 QNMOD 1
Q6 9 V10 5 QLPMOD 20
Q7 4 V11 5 QLPMOD 20
Q8 6 6 VCC QLPMOD 1
Q9 5 6 VCC QLPMOD 10
Q10 1 6 VCC QLPMOD 10

*Independent Current Source: I<name> <+ node> <-node> [[DC] <value>]
I1 6 0 DC 1.4u

*end of the OPAMP_sc subcircuit
.ends OPAMP_sc
*End Subcircuit

*Library
*******
*
*End Library

*end of the netlist
.end
